US08211890B2
6.i. Methanesulfonic acid 2,3-dihydro-4-oxa-1-thia-6-aza-naphthalen-7-ylmethyl ester
To a suspension of (2,3-dihydro-4-oxa1-thia-6-aza-naphthalen-7-yl)-methanol (0.150 g, 0.8 mmol; prepared as described in WO 2004/058144) in DCM (4 mL), cooled to 0° C., were added TEA (0.228 mL, 1.6 mmol, 2 eq.) and MsCl (0.076 mL, 0.98 mmol, 1.2 eq.). The reaction was stirred at the same temperature. MsCl (0.013 mL, 0.16 mmol) was added after 30 min. A sat. NaHCO3 solution (25 mL) and DCM (20 mL) were added. The two layers were decanted and the org. layer was dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by CC (DCM-MeOH 97-3) to afford the tittle compound as a yellowish oil (0.210 g, 98% yield).

reactant | (2,3-dihydro-4-oxa1-thia-6-aza-naphthalen-7-yl)-methanol | 0.8 mmol, 0.150 g | S1CCOC2=CN=C(C=C12)CO | C8H9NO2S
reactant | MsCl | 0.98 mmol, 0.076 mL, 1.2 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | MsCl | 0.16 mmol, 0.013 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2,3-dihydro-4-oxa-1-thia-6-aza-naphthalen-7-ylmethyl ester | 0.210 g, 98% yield | S1CCOC2=CN=C(C=C12)COS(=O)(=O)C | C9H11NO4S2
